US04889866
A solution of 4-hydroxyphenylsulfonylacetone (5.7 g), 2-chlorobenzaldehyde (3.7 g), and ammonium acetate (50 mg) in toluene (50 ml) was heated at reflux using a Dean-Stark water separator for 2 hours. About 20 ml of the solvent was removed on a rotary evaporator. Methyl β-aminocrotonate (3.1 g) and methanol (40 ml) were then added to the remaining toluene solution. The resulting mixture was heated under nitrogen for 18 hours. The cooled reaction mixture was evaporated to dryness, and the residue was chromatographed on silica gel (elution with 1:3 to 1:2 ethyl acetate/hexane) to yield 4-(2-chlorophenyl)-3-(4-hydroxyphenyl)sulfonyl-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine, m.p. 223°-225° C.

reactant | 4-hydroxyphenylsulfonylacetone | 5.7 g | OC1=CC=C(C=C1)S(=O)(=O)CC(C)=O | C9H10O4S
reactant | 2-chlorobenzaldehyde | 3.7 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | ammonium acetate | 50 mg | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-chlorophenyl)-3-(4-hydroxyphenyl)sulfonyl-5-methoxycarbonyl-2,6-dimethyl-1,4-dihydropyridine | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)C)S(=O)(=O)C1=CC=C(C=C1)O | C21H20ClNO5S
